US04661505
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-1-hexanol
A solution of 10 g. of 2,4-dihydroxy-3-propylacetophenone, 8 g. of potassium carbonate, and 7.1 g. of 6-chloro-1-hexanol in 50 ml. of methyl ethyl ketone was heated to reflux overnight. Upon cooling, dilute hydrochloric acid was added and the resulting organic layer was separated, dried over sodium sulfate, and evaporated to dryness. The residue was purified by chromatography giving 2.87 g. of the title product as an oily solid.

reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-1-hexanol | ClCCCCCCO | C6H13ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-1-hexanol | C(C)(=O)C1=C(C(=C(OCCCCCCO)C=C1)CCC)O | C17H26O4
